US05716936
A The process is performed as described in Example 1A, but starting with 2.2 g of tert-butyl (2RS,4SR,5RS)-5-(2-fluorophenyl)-1-{2-[3-(3-methoxycarbonylphenyl)ureido]acetyl}-4-(4-methylphenyl)sulphonyl-2-pyrrolidinecarboxylate and 0.19 g of potassium hydroxide in a mixture of 60 cm3 of methanol and 20 cm3 of distilled water. After treatment, 0.27 g of (2RS,4SR,5RS)-3-(3-{2-[2-tert-butoxycarbonyl-5-(2-fluorophenyl)-4-(4-methylphenyl)sulphonyl-1-pyrrolidinyl]-2-oxoethyl}ureido)benzoic acid is obtained [Rf=0.5; eluent: methylene chloride/methanol (90/10); 1H NMR spectrum (200 MHz, (CD3)2SO with addition of a few drops of CD3COOD at a temperature of 373 K, δ in ppm): 1.52 (s, 9H): C(CH3)3); from 2.35 to 2.55 and 2.79 (2 mts, 1H each: CH2 at 3); 2.45 (s, 3H: ArCH3); 3.66 and 3.96 (broad d and d respectively, J=17 Hz, 1H each: COCH2N); 4.05 (mt, 1H: H4); 4.62 (t, J=8 Hz, 1H: H2); 5.70 (d, J=3 Hz, 1H: H5); from 7.00 to 7.55 (mt, 8H: aromatic H); 7.80 (mt, 1H: H of the aromatic at 5 (H6)); 7.85 (d, J=8 Hz, 2H: H of the aromatic at 4 (ortho to the CH3)); 8.00 Ct, J=1.5 Hz, 1H: aromatic H CH2: ortho to the COOH))].

reactant | tert-butyl (2RS,4SR,5RS)-5-(2-fluorophenyl)-1-{2-[3-(3-methoxycarbonylphenyl)ureido]acetyl}-4-(4-methylphenyl)sulphonyl-2-pyrrolidinecarboxylate | 2.2 g | FC1=C(C=CC=C1)C1C(CC(N1C(CNC(=O)NC1=CC(=CC=C1)C(=O)OC)=O)C(=O)OC(C)(C)C)S(=O)(=O)C1=CC=C(C=C1)C | C33H36FN3O8S
reactant | potassium hydroxide | 0.19 g | [OH-].[K+]
solvent | methanol | 60 cm3 | CO | CH4O
solvent | water | 20 cm3 | O | H2O
product | (2RS,4SR,5RS)-3-(3-{2-[2-tert-butoxycarbonyl-5-(2-fluorophenyl)-4-(4-methylphenyl)sulphonyl-1-pyrrolidinyl]-2-oxoethyl}ureido)benzoic acid | 0.27 g | C(C)(C)(C)OC(=O)C1N(C(C(C1)S(=O)(=O)C1=CC=C(C=C1)C)C1=C(C=CC=C1)F)C(CNC(NC=1C=C(C(=O)O)C=CC1)=O)=O | C32H34FN3O8S
